Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, Transfer from OSH for surgical management of ? 
cholecystitis
 
Major Surgical or Invasive Procedure:
___ ERCP 

Impression:
The scout film was normal. The major papilla was seen on the 
inside part of the lateral rim of a large ___ 
diverticulum.
The bile duct was successfully cannulated using a Rx 
sphincterotome preloaded with 0.035in guidewire. The cannulation 
was extremelty difficult given an unstable position and a 
distorted anatomy. The scope was advanced into the diverticulum 
allowing for a better positioning for cannulation.
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. Contrast 
injection revealed a tortuous, mildly dilated CBD, as well as 
three filling defects, one in the lower third CBD and two in the 
CHD consistent with stones. 
A small biliary sphincterotomy was performed with the 
sphincterotome. There was immediate mild post-sphincterotomy 
oozing which was self-limited. Ten ccs of epinephrine (___) 
were prophylactically injected. It was decided not to proceed to 
a sphincteroplasty.
The sphincterotome was exchanged for a balloon. The biliary tree 
could not be swept as the position of the scope was lost.
After cleaning of the clot, the bile duct was again successfully 
cannulated using a Rx sphincterotome preloaded with 0.035in 
guidewire.
Given the complexity of the procedure (unstable position, 
post-sphincterotomy bleeding) and the length of the procedure in 
this ___ year old patient, decision was made to place a metal 
stent. A 10mm x 60mm Wallflex biliary Rx fully covered metal 
stent (ref ___ ___ was placed in the CBD.
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically. I supervised the acquisition and 
interpretation of the fluoroscopic images. The quality of the 
fluoroscopic images was good.
 
History of Present Illness:
Ms. ___ is a ___ female with past medical history of
HTN, HLD, GERD, prior history of saddle PE (___) no longer on
anticoagulation who was transferred from ___
for several days of abdominal pain, found to have transaminitis,
cholelithiasis and bilary dilatation and transferred to ___ due 
to
c/f cholecystitis. 

Per records from OSH: She reports that she developed mid-upper
abdominal pain, decreased appetite, and nausea after church this
AM (on my interview she states pain first started on ___ and
has been minimal more recently). Felt like she "had to use the
bathroom but couldn't." Described the pain as dull, diffuse,
middle abdomen, did not radiate, worse with food. The pain
persisted, so she called her daughter who brought her to an OSH.
Denies any fever/chills, chest pain, shoulder pain, SOB,
vomiting, changes in bowel habits, melena, BRBPR, or dysuria.  

At the OSH: labs were s/f WBC 10.9, Hgb 12.8, total bilirubin
1.3, alk phos 78, ALT 16, AST 50. Abdominal ultrasound showed
cholelithiasis with distended gallbladder and gallbladder 
sludge,
intrahepatic and extrahepatic ductal dilation. She was given 4mg
IV Zofran, 10mg IV Reglan, 2mg IV morphine, 250 cc NS 
microbolus,
2g IV Cefoxitin, and 500mg IV Flagyll. Transferred for surgical
management.  

In our ED: 
> VS: 98.3, P ___ BP 109/57 RR 18 95% RA 
> PE: afebrile, non-toxic, no acute distress, RRR, lungs CTA
bilaterally, abdomen soft, nontender, no rebound or guarding,
bowel sounds active
> Labs: CBC: 7.5 > 12.8 / 40.3 < 170; ___: 11.6  PTT: 25.7  INR:
1.1 
ALT: 457 AP: 219 Tbili: 3.1 Alb: 3.7 AST: 1290 Dbili: 1.9 
Na 142 Cl 102 HCO3 23 gluc 148   AGap=17  K 4.5 BUN 23 Cr 0.9 
Lactate:1.4
> Consults: 
 .GI - ERCP/Biliary: Requested 02:14 - per ED provider, ERCP 
recs
were as follows:restart abx, repeat abdominal US, admit to HMED,
with plan to pursue MRCP vs ERCP depending on findings
 .Surgery: Preliminary Findings 02:04 - Staffing with Dr. ___ and ___ provide final recs. Recommend adding on direct
bilirubin, lipase and consulting GI for elevated LFTs for ?MRCP
vs. ERCP. ___ ___ 
> Course: Patient sun-downing. Per outside paperwork patient is 
?
allergic to cephalosporins. Given ciprofloxacin instead of
cefoxitin.
--> Abdominal ultrasound in our ED showed:
1. Cholelithiasis and biliary sludge with gallbladder wall edema
and 
pericholecystic fluid. Negative sonographic ___ sign. The
gallbladder is not as distended as previously seen on recent
prior ultrasound. 
2. The common bile duct is dilated up to 13 mm containing 
biliary
sludge. 

On arrival to the floor, patient expressed frustration at poor
communication by all providers, as well as the fact that she had
to be transferred to ___ for care. She denies abdominal pain
currently, denies any nausea or vomiting, chest pain, chills,
fevers or shortness of breath. States her pain first started on
___ and was associated with generalized feeling of malaise 
and
due to persistent symptoms the next day her daughter took her to
see her doctor. Since then, her pain has been minimal but 
because
of her labs she was told that she had to come to ___ for
endoscopy. She states that she takes atenolol and maybe one 
other
pill only, but is unable to recall the name of it. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
PMH:  
 -Hypertension  
 -Hyperlipidemia    
 -Reflux Gastritis
 -Hiatal Hernia
 -Duodenal diverticulum
 -History of Saddle PE (___)
 -Memory loss
 -Vitamin D deficiency
 -4 vaginal births  
 PSH:  
 -Appendectomy at age ___  
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization. Father died of MI. Cancer of
unknown type in her sister. No family history of gallbladder
disease, IBD, or colon cancer. 
 
Physical Exam:
ALS: Afebrile, P 93, BP 120, satting well on RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  Negative ___ sign. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: very pleasant, gregarious, appropriate affect
 
Pertinent Results:
___ 10:50PM BLOOD WBC-7.5 RBC-4.32 Hgb-12.8 Hct-40.3 MCV-93 
MCH-29.6 MCHC-31.8* RDW-14.5 RDWSD-49.2* Plt ___
___ 10:50PM BLOOD Plt ___
___ 10:50PM BLOOD ___ PTT-25.7 ___
___ 10:50PM BLOOD ALT-457* AST-1290* AlkPhos-219* 
TotBili-3.1* DirBili-1.9* IndBili-1.2
___ 10:50PM BLOOD Lipase-21
___ 10:50PM BLOOD Albumin-3.7 Calcium-9.0 Phos-3.9 Mg-1.6

RUQ u/s:
IMPRESSION:   
1. Cholelithiasis and biliary sludge with gallbladder wall edema 
and 
pericholecystic fluid concerning for acute cholecystitis with 
possible 
microperforation 
2. The common bile duct is dilated up to 13 mm containing 
biliary sludge and 
possible tiny stones. 
  
NOTIFICATION:  The updated findings regarding concern for 
cholecystitis were 
discussed with Dr.  ___, M.D. by ___, M.D. on 
the  

OSH
US abdomen ___:  
 1. Cholelithiasis, distended gallbladder and gallbladder 
sludge.
In the absence of negative sonographic ___ sign and no
gallbladder wall thickening, findings may be nonspecific.  
 2. Intrahepatic and extrahepatic ductal dilation, concerning 
for
distal obstructive process. Clinical correlation with liver
enzymes is recommended.  

CXR ___:  
 1. Right lower lobe airspace disease.  
 2. Age-indeterminate lower thoracic vertebral compression
deformity 

ERCP
 
Impression:
The scout film was normal. The major papilla was seen on the 
inside part of the lateral rim of a large ___ 
diverticulum.
The bile duct was successfully cannulated using a Rx 
sphincterotome preloaded with 0.035in guidewire. The cannulation 
was extremelty difficult given an unstable position and a 
distorted anatomy. The scope was advanced into the diverticulum 
allowing for a better positioning for cannulation.
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. Contrast 
injection revealed a tortuous, mildly dilated CBD, as well as 
three filling defects, one in the lower third CBD and two in the 
CHD consistent with stones. 
A small biliary sphincterotomy was performed with the 
sphincterotome. There was immediate mild post-sphincterotomy 
oozing which was self-limited. Ten ccs of epinephrine (___) 
were prophylactically injected. It was decided not to proceed to 
a sphincteroplasty.
The sphincterotome was exchanged for a balloon. The biliary tree 
could not be swept as the position of the scope was lost.
After cleaning of the clot, the bile duct was again successfully 
cannulated using a Rx sphincterotome preloaded with 0.035in 
guidewire.
Given the complexity of the procedure (unstable position, 
post-sphincterotomy bleeding) and the length of the procedure in 
this ___ year old patient, decision was made to place a metal 
stent. A 10mm x 60mm Wallflex biliary Rx fully covered metal 
stent (ref ___ lot ___ was placed in the CBD.
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically. I supervised the acquisition and 
interpretation of the fluoroscopic images. The quality of the 
fluoroscopic images was good.
Recommendations:
Return to ward for on going care.
NPO overnight with aggressive IV hydration with LR at 200 cc/hr
If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
No Plavix, NSAIDS, Coumadin for 5 days.
Continue with antibiotics - Ciprofloxacin 500mg BID and Flagyl 
500mg TID x 5 days.
Results discussed with the primary team. We recommend surgical 
consult for cholecystectomy.
Repeat ERCP in 4 weeks for stent pull and re-evaluation.
 
Brief Hospital Course:
Ms. ___ is a ___ female with HLD
presenting with abdominal pain, anorexia, nausea × 1 day, and
found to have cholecystitis and choledocholithiasis.

ACUTE/ACTIVE PROBLEMS:

#Cholecystitis, acute with cholelithiasis with CBD dilation and
biliary sludge, concern for choledocholithiasis
#possible gallbladder microperforation
#Transaminitis, with hyperbilirubinemia
#Abdominal pain
Physical exam notable for benign abdominal exam with negative
___ sign. Labs notable initially for ALT 457, alk phos 219, 
total bili
3.1 that are improving on discharge. Now s/p ERCP with stent 
placement. Diet advanced after ERCP. Surgery was consulted for 
consideration of CCY during this hospitalization. Given that her 
symptom were improving, her labs were normalizing, and her 
advanced age they recommended against surgery unless her 
symptoms recur. She was discharged to complete a course of 
Ciprofloxacin/Flagyl for cholecystitis. She will have f/u with 
her PCP. Patient will need for return to ___ in 4 weeks for 
repeat ERCP and possible stent removal. 

CHRONIC/STABLE PROBLEMS:

#Hypertension - home anti HTN restarted on discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Metoprolol Tartrate 50 mg PO BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 250 mg 1 tablet(s) by mouth twice 
a day Disp #*10 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth q8 Disp 
#*15 Tablet Refills:*0 
3.  Lisinopril 10 mg PO DAILY  
4.  Metoprolol Tartrate 50 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cholecystitis
choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted for evaluation of abdominal pain and found to 
have a blockage in your bile ducts and inflammation in your 
gallbladder. For this ___ had an ERCP and had a stent placed. We 
had our surgeons evaluate ___ for possibly removing your 
gallbladder. They thought it was better not to pursue and 
elective cholecystectomy given your age. 
 
Followup Instructions:
___